US06069156
To a stirred solution of 6-amino-1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole (147 mg) in dichloromethane (2 ml) was added acetic formic anhydride (0.5 ml) at 0° C. The reaction mixture was stirred at 0° C. for 10 minutes, then diluted with dichloromethane. The organic phase was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting with a mixture of ethyl acetate and hexane (1:2) to give crystals which were recrystallized from a mixture of ethyl acetate and hexane to give 1-(2-chlorobenzyl)-6-formamido-3-isobutyryl-2-propylindole (85 mg) as colorless crystals.

reactant | 6-amino-1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole | 147 mg | NC1=CC=C2C(=C(N(C2=C1)CC1=C(C=CC=C1)Cl)CCC)C(C(C)C)=O | C22H25ClN2O
reactant | acetic formic anhydride | 0.5 ml | C(=O)OC(C)=O | C3H4O3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-(2-chlorobenzyl)-6-formamido-3-isobutyryl-2-propylindole | 85 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)NC=O)C(C(C)C)=O)CCC)C=CC=C1 | C23H25ClN2O2
